US05585394
A) 2-[(1-Benzylpiperid-4-yl)amino]-4-chloro-1-nitrobenzene
A solution of 38.4 g of 2,4-dichloro-1-nitrobenzene in 160 ml of 2-ethoxyethanol is heated to 100° C. A solution of 152.23 g of N-benzyl-4-aminopiperidine in 40 ml of 2-ethoxyethanol is then added slowly. The mixture is refluxed for 5 hours. The solvent is evaporated off under vacuum, the residue is taken up with H2O, extracted with AcOEt, washed with water and dried over Na2SO4 and the solvent is evaporated off under vacuum. The residue is chromatographed on silica using isopropyl ether as the eluent to give 24.4 g of the expected product after crystallization from isopropyl ether. M.p.=84° C.

reactant | 2,4-dichloro-1-nitrobenzene | 38.4 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | N-benzyl-4-aminopiperidine | 152.23 g | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
solvent | 2-ethoxyethanol | 160 ml | C(C)OCCO | C4H10O2
solvent | 2-ethoxyethanol | 40 ml | C(C)OCCO | C4H10O2
product | 2-[(1-Benzylpiperid-4-yl)amino]-4-chloro-1-nitrobenzene | 24.4 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C18H20ClN3O2
